US06140332
Step 41.2: 6-Ethoxycarbonyl-4-hydroxy-7H-pyrrolo[2,3-d]pyrimidine
With the exclusion of air, 51.5 g (227 mmol) of 2-amino-3,5-bis(ethoxycarbonyl)-1H-pyrrole, 455 ml of formamide, 227 ml of DMF and 113 ml of formic acid are stirred at 140° C. for 27 hours. The resulting yellow suspension is cooled to 0-5° C. Filtering and washing with isopropanol and hexane yield the title compound; 1H-NMR (DMSO-d6): 13-12 (2 HX), 7.99 and 7.11 (2s, 2H), 4.31 (q, J=7, 2H), 1.32 (t, J=7, 3H).

reactant | 2-amino-3,5-bis(ethoxycarbonyl)-1H-pyrrole | 227 mmol, 51.5 g | NC=1NC(=CC1C(=O)OCC)C(=O)OCC | C10H14N2O4
reactant | formamide | 455 ml | C(=O)N | CH3NO
reactant | DMF | 227 ml | CN(C)C=O | C3H7NO
solvent | formic acid | 113 ml | C(=O)O | CH2O2
product | 6-Ethoxycarbonyl-4-hydroxy-7H-pyrrolo[2,3-d]pyrimidine | C(C)OC(=O)C1=CC2=C(N=CN=C2O)N1 | C9H9N3O3
